US04016186
In a closed vessel 16.7g of ethyl p-hydroxybenzoate, 7.2 g of 1,2-butylene oxide and 0.8 ml of a 50% aqueous solution of sodium hydroxide were heated at 150° C for 4 hours in the same manner as in Example 1. The reaction mixture obtained was treated in the same way as in Example 1 to afford 19.6g of 1-(p-ethoxycarbonylphenoxy)-butan-2-ol (compound No. 48) in an 82% yield, which had a melting point of 52° to 52.5° C when recrystallized from ethyl acetate and n-hexane.

reactant | ethyl p-hydroxybenzoate | 16.7g | OC1=CC=C(C(=O)OCC)C=C1 | C9H10O3
reactant | 1,2-butylene oxide | 7.2 g | C1C(CC)O1 | C4H8O
reactant | sodium hydroxide | [OH-].[Na+]
product | 1-(p-ethoxycarbonylphenoxy)-butan-2-ol | 19.6g, 82% yield | C(C)OC(=O)C1=CC=C(OCC(CC)O)C=C1 | C13H18O4
